US09169237B1
1-(4-fluorophenyl)-1-{3-[methyl(3,4,5,6-tetrahydropyridin-2-yl)amino]propyl}-1,3-dihydro-2-benzo-furan-5-carbonitrile
A mixture of 0.200 g (0.64 mmol) of 1-[3-(methylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile (Preparation 1) and 6-methoxy-2,3,4,5-tetrahydropyridine (0.080 g, 0.71 mmol, 1.1 equiv.) was heated at 80° C. for 15 hr, cooled to rt and concentrated in vacuo to a gummy residue. The crude product was purified using column chromatography to give the title product as an off-white solid, 0.060 g (24%).

reactant | 1-[3-(methylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile | 0.64 mmol, 0.200 g | CNCCCC1(OCC2=C1C=CC(=C2)C#N)C2=CC=C(C=C2)F | C19H19FN2O
reactant | 6-methoxy-2,3,4,5-tetrahydropyridine | 0.71 mmol, 0.080 g, 1.1 equiv. | COC=1CCCCN1 | C6H11NO
product | 1-(4-fluorophenyl)-1-{3-[methyl(3,4,5,6-tetrahydropyridin-2-yl)amino]propyl}-1,3-dihydro-2-benzo-furan-5-carbonitrile | FC1=CC=C(C=C1)C1(OCC2=C1C=CC(=C2)C#N)CCCN(C2=NCCCC2)C | C24H26FN3O
